US09126980B2
Step 5: Preparation of (S)—N,N-dibutyl-1-(2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-nitrophenyl)-5-methyl-1H-pyrazole-3-carboxamide
To a solution of (5)-1-(2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-nitrophenyl)-5-methyl-1H-pyrazole-3-carboxylic acid (14.0 g, 32.1 mmol) in DMF (150 mL) were added dibutylamine (8.6 mL, 48.2 mmol), EDC.HCl (9.2 g, 48.2 mmol), HOBT (5.63 g, 41.7 mmol) followed by stirring at RT for 12 h. The reaction mixture was diluted with water and extracted with EtOAc (300 mL×2) twice. The combined organic layers were washed with water (300 mL), brine (100 mL), dried over sodium sulphate and concentrated invacuo. The residue was purified on silica gel (100-200 mesh) to afford the title compound as and ‘off white’ solid 9 g (51%). Rf=0.47 (25% EtOAc in hexane); 1H NMR (400 MHz, DMSO-d6): δ 8.62-8.22 (m, 2H), 8.00-7.80 (m, 1H), 7.30-6.84 (m, 4H), 6.60-6.35 (m, 1H), 5.20-3.80 (m, 3H), 3.79-2.40 (m, 9H), 2.38-2.20 (m, 3H), 1.60-0.50 (m, 14H); LC-MS: m/z 548.0 (M+H).

reactant | (5)-1-(2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-nitrophenyl)-5-methyl-1H-pyrazole-3-carboxylic acid | 32.1 mmol, 14.0 g | OC[C@H]1N(CC2=CC=CC=C2C1)C(=O)C1=C(C=CC(=C1)[N+](=O)[O-])N1N=C(C=C1C)C(=O)O | C22H20N4O6
reactant | dibutylamine | 48.2 mmol, 8.6 mL | C(CCC)NCCCC | C8H19N
reactant | EDC.HCl | 48.2 mmol, 9.2 g | CCN=C=NCCCN(C)C.Cl
reactant | HOBT | 41.7 mmol, 5.63 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
solvent | DMF | 150 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | (S)—N,N-dibutyl-1-(2-(3-(hydroxymethyl)-1,2,3,4-tetrahydroisoquinoline-2-carbonyl)-4-nitrophenyl)-5-methyl-1H-pyrazole-3-carboxamide | C(CCC)N(C(=O)C1=NN(C(=C1)C)C1=C(C=C(C=C1)[N+](=O)[O-])C(=O)N1CC2=CC=CC=C2C[C@H]1CO)CCCC | C30H37N5O5
